US07186715B2
Dimethyl-[2-(2-piperazin-1-yl-phenoxy)-ethyl]-amine
To a solution of 1-Boc-4(2-hydroxyphenyl)-piperazine (300 mg, 1.08 mmol), 2-dimethylaminoethyl chloride hydrochloride (233 mg, 1.62 mmol), K2CO3 (450 mg, 3.26 mmol), and KI (357 mg, 2.15 mmol) in DMF (10 mL) was added 18-crown-6 (1.42 g, 5.37 mmol). After stirring overnight, water was added and the solution extracted with CH2Cl2 (3×). The combined organic extracts were concentrated to an oil. The oil was loaded onto a 10 g SCX ion exchange column equilibrated with MeOH. The column was flushed with 20 mL of MeOH, 20 mL of 0.2 M NH3 in MeOH, and 20 mL of 2 M NH3 in MeOH. The fractions containing desired product were combined and concentrated to an oil. To a solution of the oil in MeOH (2 mL) was added 1M HCl (6 mL) in Et2O. After stirring overnight the solution was concentrated to an oil to obtain the final compound. MS: 250.2 (M+1).

reactant | 1-Boc-4(2-hydroxyphenyl)-piperazine | 1.08 mmol, 300 mg | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)O | C15H22N2O3
reactant | 2-dimethylaminoethyl chloride hydrochloride | 1.62 mmol, 233 mg | Cl.CN(CCCl)C
reactant | K2CO3 | 3.26 mmol, 450 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 5.37 mmol, 1.42 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Dimethyl-[2-(2-piperazin-1-yl-phenoxy)-ethyl]-amine | CN(CCOC1=C(C=CC=C1)N1CCNCC1)C | C14H23N3O
